.SUBCKT C106D  n10 n30 n20 
*NODE 10 ANODE  PIN 
*NODE 30 GATE PIN
*NODE 20 CATHODE  PIN 
.MODEL DMOD  D  (N  = 0.01) 
.MODEL DONl  D (RS = 0.019 IS  = 1E-12) 
.MODEL DGAT  D (IS = 1E-12) 
.MODEL DBREK  D (N  = 839.34 IS  = 1E-12) 
V1 n1 n20 1
VGTO n7 n20 0.187 
VAC n10 n14 0 
VOFF n56 n57 0 
VREV n65 n14 0 
D1 n3   n1 DMOD 
D2  n20  n3 DMOD 
D3  n67  n56 DMOD 
D4 n57 n70 DMOD 
D5  n20  n57 DMOD 
DON  n14 n22  DONl 
DGA  n30 n7 DGAT 
DBR  n14  n20 DBREK 
B1  n22  n20 V=V(n10,n20)*V(n3,n20) 
CON n3 n20  15pF 
CRISE n14  n20  23.75pF 
COFF n57 n20  1.167NF 
RLEAK  n20  n14 40MEG 
ROFF n66  n67  1 
R1 n66  n70  1 
FOFF n20 n65  VOFF  1 
E2  n66  n20  n10 n20 -1
BCTR n3 n20 I=I(VGTO) + 15u/190u*(I(VAC)-190u)+I(VREV)
.ENDS C106D
